US07420054B2
9.1 Preparation of 5,7-dihydroxy-4-methylcoumarin
A mixture of 2.77 g (22 mmol) of phloroglucinol and 2.6 g (20 mmol) of ethyl acetoacetate were melted together, the mixture was cooled, and 40 ml of a mixture of sulfuric acid/water (75% w/w) was added rapidly to the semi-solid mass. The mixture was stirred for 24 h, during which time a semi-solid mass formed. It was poured into a mixture of ice/water (300 ml) containing 5 g of sodium acetate and the precipitate was recovered by suction filtration.

reactant | phloroglucinol | 22 mmol, 2.77 g | C1(O)=CC(O)=CC(O)=C1 | C6H6O3
reactant | ethyl acetoacetate | 20 mmol, 2.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sulfuric acid water | S(O)(O)(=O)=O.O
reactant | sodium acetate | 5 g | C(C)(=O)[O-].[Na+]
product | 5,7-dihydroxy-4-methylcoumarin | OC1=C2C(=CC(OC2=CC(=C1)O)=O)C | C10H8O4
